US04950678
Pyrazole (1.43 g, 21,0 mmol) in 3 ml of DMF is added dropwise at RT to a suspension of sodium hydride (50%; 1.0 g, 21.0 mmol) in 10 ml of DMF. The mixture is stirred at RT for 30 min., after which it is added dropwise at 5° over a period of 30 min. to a solution of 3,5-dichloro-4-fluoronitrobenzene (3.0 g, 15.0 mmol) in 20 ml of DMF. After reaction is complete, the reaction mixture is quenched with water and extracted with ethyl acetate. The combined organic layers are washed with water and with brine and dried to give a yellow solid, 1-(2,6-dichloro-4-nitrophenyl)-pyrazole.

reactant | Pyrazole | 21,0 mmol, 1.43 g | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | 21.0 mmol, 1.0 g | [H-].[Na+]
reactant | 3,5-dichloro-4-fluoronitrobenzene | 15.0 mmol, 3.0 g | ClC=1C=C(C=C(C1F)Cl)[N+](=O)[O-] | C6H2Cl2FNO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(2,6-dichloro-4-nitrophenyl)-pyrazole | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)N1N=CC=C1 | C9H5Cl2N3O2
